US08017611B2
1-bromopyrrolidine-2,5-dione (427 mg) was added to a stirred solution of 3-(4-fluoro-1,3-benzoxazol-2-yl)pyridin-2-amine (500 mg) dissolved in tetrahydrofuran (20 ml) over a period of 5 minutes. The resulting solution was stirred at 25° C. for 2 hours. The solvent was evaporated and the residue was washed with water and dried over P2O5 under reduced pressure to afford 5-bromo-3-(4-fluoro-1,3-benzoxazol-2-yl)pyridin-2-amine (637 mg) as a solid. Mass spectrum: M+H+ 307-309, R.T. 3.95 min.

reactant | 1-bromopyrrolidine-2,5-dione | 427 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-(4-fluoro-1,3-benzoxazol-2-yl)pyridin-2-amine | 500 mg | FC1=CC=CC2=C1N=C(O2)C=2C(=NC=CC2)N | C12H8FN3O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-bromo-3-(4-fluoro-1,3-benzoxazol-2-yl)pyridin-2-amine | 637 mg | BrC=1C=C(C(=NC1)N)C=1OC2=C(N1)C(=CC=C2)F | C12H7BrFN3O
